US07723331B2
c) 6-(4-Chlorophenyl)-3-{3-[(1-isopropylpiperidin-4-yl)oxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one, acetate salt
1-{3-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}methanamine (188 mg, 0.757 mmol) and methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate (244 mg, 0.757 mmol) were dissolved in MeOH (2 ml). The reaction was heated in a microwave at 120° C. for 15 minutes, during which time a precipitate had been formed in the microwave vial. The precipitate was filtered off and washed with MeOH. The filtrate was purified by reversed phase HPLC yielding the title compound as a white solid. Yield: 37 mg (9%). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 7.59 (m, 2H), 7.43 (s, 1H), 7.39 (m, 2H), 7.24 (t, 1H, J=7.9 Hz), 6.91-6.87 (m, 2H), 6.81 (dd, 1H, J=7.9 Hz, J=2.1 Hz), 5.15 (s, 2H), 4.40 (m, 1H, J=2.8 Hz), 3.06 (m, 1H, J=6.5 Hz), 2.87 (m, 2H), 2.75-2.67 (m, 2H), 2.14 (m, 2H), 1.97 (s, 2H), 1.90 (m, 2H), 1.13 (d, 6H, J=6.6 Hz). 13C NMR (100 MHz, CDCl3) δ 177.0, 157.9, 157.7, 157.1, 151.6, 148.1, 137.5, 135.8, 131.7, 130.5, 129.9, 127.8, 123.3, 121.0, 120.7, 116.3, 115.5, 70.9, 55.3, 49.5, 44.4, 29.3, 23.3, 17.7. MS (ESI+) 494.0 (M+1H+).

reactant | 1-{3-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}methanamine | 0.757 mmol, 188 mg | C(C)(C)N1CCC(CC1)OC=1C=C(C=CC1)CN | C15H24N2O
reactant | methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate | 0.757 mmol, 244 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)/N=C/N(C)C | C15H15ClN2O2S
solvent | MeOH | 2 ml | CO | CH4O
product | 6-(4-Chlorophenyl)-3-{3-[(1-isopropylpiperidin-4-yl)oxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one, acetate salt | C(C)(=O)O.ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OC1CCN(CC1)C(C)C | InChI=1S/C27H28ClN3O2S.C2H4O2/c1-18(2)30-12-10-22(11-13-30)33-23-5-3-4-19(14-23)16-31-17-29-24-15-25(34-26(24)27(31)32)20-6-8-21(28)9-7-20;1-2(3)4/h3-9,14-15,17-18,22H,10-13,16H2,1-2H3;1H3,(H,3,4)
